US07250410B2
3,5-dibenzyl-7,8-dimethoxy-1-phenyl-3,5-dihydro-4H-2,3-benzodiazepin-4-one, IIIbd.
To a solution of 7,8-dimethoxy-1-phenyl-3,5-dihydro-4H-2,3-benzodiazepin-4-one VIaa (200 mg, 0.67 mmol) in DMF (10 ml), under an inert atmosphee, add NaH in oil (50 mg, 1.25 mmol). Then add dropwise benzyl bromide (150 μl, 1.26 mmol). After 2 hours at room temperature, evaporate the DMF. Take up the residue in CH2Cl2, wash twice with water. Dry the organic phases on Na2SO4. Purify by silica gel column chromatography (AcOEt/hexane, 4:1). Yield: 79%. 1H-NMR (200 MHz, CDCl3): d 3.35–3.56 (m, 2H, CH2Ph), 3.70 (s, 3H, OCH3), 3.80 (m, 1H, CH), 3.97 (s, 3H, OCH3), 4.87 (d, J=10.2, 1H, NCHPh), 5.30 (d, J=10.2, 1H, NCHPh), 6.61 (s, 1H, Ar), 6.93 (s, 1H, Ar), 7.06–7.42 (m, 13H, Ar), 7.59 (d, J=4.8, 2H, Ar). SM: 477 (M+H), 500 (M+H+Na).

reactant | 7,8-dimethoxy-1-phenyl-3,5-dihydro-4H-2,3-benzodiazepin-4-one | COC=1C(=CC2=C(CC(NN=C2C2=CC=CC=C2)=O)C1)OC | C17H16N2O3
reactant | NaH | [H-].[Na+]
reactant | benzyl bromide | 1.26 mmol, 150 μl | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3,5-dibenzyl-7,8-dimethoxy-1-phenyl-3,5-dihydro-4H-2,3-benzodiazepin-4-one | Yield: 79% | C(C1=CC=CC=C1)N1N=C(C2=C(C(C1=O)CC1=CC=CC=C1)C=C(C(=C2)OC)OC)C2=CC=CC=C2 | C31H28N2O3
